data/mechanism_extracts/JOC/10.1021_acs.joc.1c02069.json
{"doi": "10.1021_acs.joc.1c02069", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical [3+2] cycloaddition between N-benzyl-N,N-bis(trimethylsilylmethyl)amine precursors and electron-poor alkenes to form 3- and 3,4-disubstituted pyrrolidines via in situ anodic generation of a nonstabilized azomethine ylide.", "mechanism_family": ["radical_anodic", "direct_SET", "paired_electrolysis", "radical_cation", "concerted"], "electrochemical_role": "Anodic single-electron oxidation of the bis(silylmethyl)amine 1a to its aminium radical cation, followed by a second SET after desilylation to give an iminium cation; cathode reduces water to H2 and hydroxide, which traps the TMS+ cation as silanol.", "key_intermediates": [{"name": "Aminium radical cation A from 1a", "smiles": "[CH2]([Si](C)(C)C)[N+]([CH2][Si](C)(C)C)Cc1ccccc1", "role": "transient"}, {"name": "Iminium cation B (after first desilylation)", "smiles": "C(=[N+](Cc1ccccc1)C[Si](C)(C)C)", "role": "reactive"}, {"name": "Nonstabilized azomethine ylide C", "smiles": "[CH2-][N+](=C)Cc1ccccc1", "role": "reactive"}, {"name": "Trimethylsilyl cation", "smiles": "[Si+](C)(C)C", "role": "transient"}, {"name": "Trimethylsilanol byproduct", "smiles": "C[Si](C)(C)O", "role": "off_pathway"}], "electron_flow": "At the anode, amine 1a undergoes SET to give aminium radical cation A; loss of TMS+ yields neutral α-amino radical that is further oxidized (second SET) to iminium cation B; a second desilylation generates the nonstabilized azomethine ylide C, which undergoes concerted [3+2] cycloaddition with the electron-poor alkene 2a to give pyrrolidine 3aa. At the cathode, water is reduced to H2 and HO–, which quenches TMS+ to silanol.", "rate_determining_step": "Initial anodic SET oxidation of the amine 1a (E_ox = 0.75 V vs Ag/AgCl), as 2a shows no oxidation peak.", "probe_reagents": [{"name": "Cyclic voltammetry of 1a, 2a, and 1a+2a", "smiles": null, "purpose": "redox_probe", "observation": "1a oxidizes at 0.75 V vs Ag/AgCl; 2a shows no oxidation peak, supporting selective anodic oxidation of the amine precursor."}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "weak", "notes": "Mechanism is proposed based on CV studies and literature precedent; no radical traps, KIE, or DFT reported. The TMS+ byproduct is quenched by cathodically generated hydroxide to give trimethylsilanol, consistent with a paired-electrolysis scenario. Gram-scale synthesis (38 h, 70%) supports robustness but is not mechanistic evidence."}
